US04230878
Preparation of N-[4-(4-pentadecenylamino)benzoyl]glycine
A mixture of 26.4 g. of ethyl N-[4-(4-pentadecenylamino)benzoyl]glycinate, 110 ml. of 1 N sodium hydroxide solution, and 100 ml. of ethanol is stirred at ambient temperature for 2 hours and then partially evaporated. The gaseous solution is washed with diethyl ether, acidified with 6 N hydrochloric acid, and filtered. The white solid is dried in vacuo and recrystallized from acetone.

reactant | ethyl N-[4-(4-pentadecenylamino)benzoyl]glycinate | C(CCC=CCCCCCCCCCC)NC1=CC=C(C(=O)NCC(=O)OCC)C=C1 | C26H42N2O3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-[4-(4-pentadecenylamino)benzoyl]glycine | C(CCC=CCCCCCCCCCC)NC1=CC=C(C(=O)NCC(=O)O)C=C1 | C24H38N2O3
